US07470705B2
(+/−)-cis-4-[(3,5-Bis-trifluoromethylbenzyl)-(3-methyl-isoxazol-5-yl)-amino]-2-ethyl-6-trifluoromethyl-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid isopropyl ester
To a solution of (+/−)-cis-4-[(3,5-bis-trifluoromethyl-benzyl)-(3-oxo-butyryl)-amino]-2-ethyl-6-trifluoromethyl-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid isopropyl ester (225 mg, 0.35 mmol) in MeOH (1.7 mL) at 0° C., add hydroxylamine hydrochloride (37 mg, 0.53 mmol) and sodium acetate (1.4 mg, 0.017 mmol). Stir the reaction mixture under reflux overnight. Cool the mixture and remove the solvents under reduced pressure. Dilute the residue with ethyl acetate and brine. Separate the layers, and dry the organic phase over magnesium sulfate, filter, and concentrate in vacuo. Purify the residue by flash chromatography, eluting with hexanes/ethyl acetate, to afford the title compound (12 mg, 5%). MS (ES+): 639 (M+H).

reactant | (+/−)-cis-4-[(3,5-bis-trifluoromethyl-benzyl)-(3-oxo-butyryl)-amino]-2-ethyl-6-trifluoromethyl-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid isopropyl ester | 0.35 mmol, 225 mg | C(C)(C)OC(=O)N1[C@H](C[C@H](C2=NC(=CC=C12)C(F)(F)F)N(C(CC(C)=O)=O)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)CC | C28H28F9N3O4
reactant | hydroxylamine hydrochloride | 0.53 mmol, 37 mg | Cl.NO
reactant | sodium acetate | 0.017 mmol, 1.4 mg | C(C)(=O)[O-].[Na+]
solvent | MeOH | 1.7 mL | CO | CH4O
product | (+/−)-cis-4-[(3,5-Bis-trifluoromethylbenzyl)-(3-methyl-isoxazol-5-yl)-amino]-2-ethyl-6-trifluoromethyl-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid isopropyl ester | 12 mg, 5% | C(C)(C)OC(=O)N1[C@H](C[C@H](C2=NC(=CC=C12)C(F)(F)F)N(C1=CC(=NO1)C)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)CC | C28H27F9N4O3
